US03994941
A stirred mixture of 8-chloro-6-phenyl-1-(2-phthalimidoethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine, ethyl acetate solvate (37.6 g., 0.0675 mole) and absolute ethanol (340 ml.) is treated with hydrazine hydrate (7.43 g.) and warmed, under nitrogen, in an oil bath to 75° during 65 minutes, the bath is kept at this temperature for an additional 55 minutes. The mixture is then cooled in an ice bath, and the solid is collected by filtration and washed with absolute ethanol and methylene chloride. The combined filtrate is mixed with ice cold salt water and extracted with methylene chloride. The extract is washed with water, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue is chromatographed on silica gel (1 kg.) with methanol and the resulting product is crystallized from methylene chloride diethyl ether to give 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine in 2 crops: 5.29 g. of melting point 198°-200° C. dec., and 2.37 g., of melting point 194°-196.5° C. dec. The analytical sample is crystallized from methanol-ethyl acetate and has a melting point of 205°-207° C.

reactant | 8-chloro-6-phenyl-1-(2-phthalimidoethyl)-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCN3C(C=2C(C3=O)=CC=CC2)=O)C2=CC=CC=C2)C1 | C26H18ClN5O2
reactant | ethyl acetate | 0.0675 mole, 37.6 g | C(C)(=O)OCC | C4H8O2
reactant | hydrazine hydrate | 7.43 g | O.NN
solvent | ethanol | 340 ml | C(C)O | C2H6O
product | 1-(2-aminoethyl)-8-chloro-6-phenyl-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | NCCC1=NN=C2N1C1=C(C(=NC2)C2=CC=CC=C2)C=C(C=C1)Cl | C18H16ClN5
